US08536204B2
Stage 3: 3-Methyl-1-(pyridin-3-yl)-1H-pyrazole-4-carbonyl chloride hydrochloride
0.250 g (1.23 mmol) of 3-methyl-1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid were initially charged in approx. 12 ml of dichloromethane, and admixed under argon with 2 drops of dimethylformamide. 0.453 g (3.56 mmol) of oxalyl chloride were added dropwise and, after the end of the addition, the mixture was stirred at room temperature for 1 h. The solution was concentrated and the residue was admixed with approx. 10 ml of toluene and concentrated. This gave a colourless solid which was converted further immediately.

reactant | 3-methyl-1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid | 1.23 mmol, 0.250 g | CC1=NN(C=C1C(=O)O)C=1C=NC=CC1 | C10H9N3O2
reactant | oxalyl chloride | 3.56 mmol, 0.453 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | approx. 12 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 3-Methyl-1-(pyridin-3-yl)-1H-pyrazole-4-carbonyl chloride hydrochloride | Cl.CC1=NN(C=C1C(=O)Cl)C=1C=NC=CC1 | InChI=1S/C10H8ClN3O.ClH/c1-7-9(10(11)15)6-14(13-7)8-3-2-4-12-5-8;/h2-6H,1H3;1H
